US07884210B2
To a solution of trans-2-(4-hydroxycyclohexyl)-isoindole-1,3-dione (13 g, 53 mmol) in dry DMF (50 mL) was added molecular sieves (4 Å, 6 mL). The mixture was stirred for 30 min at rt. NaH (5.3 g 60% in oil, 132.5 mmol) was washed with hexanes before it was added in portions to the reaction mixture. The mixture was stirred for 30 min before propylbromide (48.1 mL, 530 mmol) was added. The reaction mixture was stirred for 16 hours before the reaction mixture was filtered. The filtrate was added water (100 mL) and extracted with Et2O (250 mL). The organic phase was washed with brine (3×50 mL) and dried (MgSO4) and the solvent was removed in vacuo. The crude product was purified by column chromatography (silica gel, heptane-EtOAc (4:1). The first band was collected to give 6.6 g (43%) of trans-2-(4-propyloxycyclohexyl)-isoindole-1,3-dione.

reactant | trans-2-(4-hydroxycyclohexyl)-isoindole-1,3-dione | 53 mmol, 13 g | O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
reactant | NaH | 132.5 mmol, 5.3 g | [H-].[Na+]
reactant | propylbromide | 530 mmol, 48.1 mL | C(CC)Br | C3H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | trans-2-(4-propyloxycyclohexyl)-isoindole-1,3-dione | 6.6 g, 43% | C(CC)O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C17H21NO3
